US07626049B2
15.62 g (0.048 mol) of 2-[(Di-tert-butyl-phosphanyl)methyl]-1,1,1,3,3,3-hexafluoropropan-2-ol was dissolved in 200 ml of toluene. 9.5 g (0.022 mol) of Bis[bis(trimethylsilyl)amino]tin(II) was added dropwise in above solution. The reaction mixture was stirred for 24 hours and the solvent and formed bis(trimethylsilyl)amine were removed in 1-mm vacuum. The residue was recrystallized from 50 ml of pentane at −30° C. Yield of tin(II), trans-bis[3-(di-tert-butylphosphino)-1,1,1-trifluoro-2-(trifluoromethyl)-2-propanolato-O,P]—, was 12.71 g (76%) as a white solid with m.p. 207.6° C. (decomposition). 1H NMR (500 MHz, C6D6, TMS): δ 1.00 (s, 36H, Me), 2.10 (s, 4H, CH2). 19F NMR (500 MHz, Tol-D8): δ−76.85 (s, 12F). 31P NMR (500 MHz, Tol-D8): δ 18.2 (1JP119Sn=865.36 Hz, 1JP117Sn=827.18 Hz). 119Sn NMR (400 MHz, C6D6, Me4Sn): δ−292.0 (br, 1Sn). Anal. Calculated for C24H40F12O2P2Sn (Mol. Wt.: 769.21): C, 37.47; H, 5.24. Found: C, 37.54; H, 5.27. The structure was proven by X-ray analysis.

reactant | 2-[(Di-tert-butyl-phosphanyl)methyl]-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.048 mol, 15.62 g | C(C)(C)(C)P(C(C)(C)C)CC(C(F)(F)F)(C(F)(F)F)O | C12H21F6OP
reactant | Bis[bis(trimethylsilyl)amino]tin(II) | 0.022 mol, 9.5 g | C[Si](C)(C)N([Si](C)(C)C)[Sn]N([Si](C)(C)C)[Si](C)(C)C
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | bis(trimethylsilyl)amine | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
